US08530648B2
b) 9-(quinoxalin-2-yl)-1,9-diazaspiro[5.5]undecan-2-one
To a stirred solution of 1,9-diazaspiro[5.5]undecan-2-one (TFA salt) (800 mg, 4.76 mmol) in 10 mL DMF, 2-chloroquinoxaline (937 mg, 5.71 mmol) and K2CO3 (3.3 g, 23.8 mmol) were added and the reaction mixture was stirred for 18 h at 80° C. under a nitrogen atmosphere. The reaction mixture was quenched with ice-cold water and extracted with ethyl acetate (2×50 mL), dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure. The crude mixture was purified by flash column chromatography (eluent: 3% methanol in chloroform) to yield the title compound (1.0 g, 71%). [LCMS RtF=0.37 min, [M+H]+=297.2]

reactant | 1,9-diazaspiro[5.5]undecan-2-one | 4.76 mmol, 800 mg | N1C(CCCC12CCNCC2)=O | C9H16N2O
reactant | 2-chloroquinoxaline | 5.71 mmol, 937 mg | ClC1=NC2=CC=CC=C2N=C1 | C8H5ClN2
reactant | K2CO3 | 23.8 mmol, 3.3 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 9-(quinoxalin-2-yl)-1,9-diazaspiro[5.5]undecan-2-one | 1.0 g, 71% | N1=C(C=NC2=CC=CC=C12)N1CCC2(CCCC(N2)=O)CC1 | C17H20N4O
